US06359013B1
E-4-chlorostyryl 4-chlorobenzyl sulfone
A solution of 4-chlorobenzyl sulfonylacetic acid (0.01 mol) and 4-chlorobenzaldehyde (0.01 mol) was subjected to Procedure 1. The title compound was obtained in 80% yield.

reactant | 4-chlorobenzyl sulfonylacetic acid | 0.01 mol | ClC1=CC=C(CS(=O)(=O)CC(=O)O)C=C1 | C9H9ClO4S
reactant | 4-chlorobenzaldehyde | 0.01 mol | ClC1=CC=C(C=O)C=C1 | C7H5ClO
product | E-4-chlorostyryl 4-chlorobenzyl sulfone | 80% yield | ClC1=CC=C(CS(=O)(=O)\C=C\C2=CC=C(C=C2)Cl)C=C1 | C15H12Cl2O2S
